US05495023
A mixture of N-(4-ethyl-2,4-hexadien-1-yl)phthalimide (500 mg), hydrazine monohydrate (147 mg), and ethanol (5 ml) was refluxed for 40 minutes under nitrogen atmosphere. After cooling, the precipitate was filtered and washed with ethanol. Evaporation of the filtrate gave a crystalline residue which was dissolved in 1N sodium hydroxide solution and extracted with dichloromethane. The organic extract was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated to give 4-ethyl-2,4-hexadien-1-ylamine (205 mg) as an oil. This oil was used in the next reaction without further purification. To a solution of crude 4-ethyl-2,4-hexadien-1-ylamine (205 mg) in dichloromethane (2 ml) at 0° C. was added dropwise acetic anhydride (335 mg). After one hour, the reaction mixture was evaporated to dryness. The residue was chromatographed on silica gel (2% methanol in dichloromethane) to give 1-acetylamino-4-ethyl-2,4-hexadiene (122 mg) as an oil.

reactant | 4-ethyl-2,4-hexadien-1-ylamine | 205 mg | C(C)C(C=CCN)=CC | C8H15N
reactant | acetic anhydride | 335 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-acetylamino-4-ethyl-2,4-hexadiene | 122 mg | C(C)(=O)NCC=CC(=CC)CC | C10H17NO
